US08710044B2
4-[((1S)-1-(4-Fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}ethyl)amino]-2-methylquinazoline-8-carboxamide
Crude methyl 4-[((1S)-1-(4-fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]-amino}ethyl)amino]-2-methylquinazoline-8-carboxylate (177 mg; 0.32 mmol) was treated with methanolic ammonia (10 ml, 7M), and stirred at 70° C. overnight. The reaction mixture was concentrated to provide the desired crude intermediate. (M+H) 539.1

reactant | methyl 4-[((1S)-1-(4-fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]-amino}ethyl)amino]-2-methylquinazoline-8-carboxylate | 0.32 mmol, 177 mg | FC1=CC=C(C=C1)[C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)NC1=NC(=NC2=C(C=CC=C12)C(=O)OC)C | C26H24FN5O6S
reactant | ammonia | 7M, 10 ml | N | H3N
product | 4-[((1S)-1-(4-Fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}ethyl)amino]-2-methylquinazoline-8-carboxamide | FC1=CC=C(C=C1)[C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)NC1=NC(=NC2=C(C=CC=C12)C(=O)N)C | C25H23FN6O5S
